US08193214B2
(2-Imino-2H-pyridin-1-yl)-acetic acid ethyl ester hydrobromide salt
To 39 mL (0.35 mol) of ethyl bromoacetate is added 9.4 g (0.1 mol) of 2-aminopyridine portionwise at 0° C. The resulting mixture is allowed to warm to room temperature and stirred at this temperature for 30 minutes. The precipitate is collected and washed with hexane to give the desired compound as light tan solid.

reactant | ethyl bromoacetate | 0.35 mol, 39 mL | BrCC(=O)OCC | C4H7BrO2
reactant | 2-aminopyridine | 0.1 mol, 9.4 g | NC1=NC=CC=C1 | C5H6N2
product | (2-Imino-2H-pyridin-1-yl)-acetic acid ethyl ester hydrobromide salt | Br.C(C)OC(CN1C(C=CC=C1)=N)=O | InChI=1S/C9H12N2O2.BrH/c1-2-13-9(12)7-11-6-4-3-5-8(11)10;/h3-6,10H,2,7H2,1H3;1H
